US05101054
A solution of diborane in THF (56.2 ml, 1.78 mmol/ml, 150 mmol) is put into a 100 ml three neck flask equipped with a Dimroth condenser, and cooled in an ice bath. Subsequently, thereto is added gradually with stirring methyl-trifluoromethylmalonamide (8.0 g, 43.5 mmol) prepared in the above (1) in the form of a crystal, and the mixture is reacted at room temperature for 3 hours. After refluxing for 5 hours, the mixture is acidified with 1N aqueous hydrochloric acid solution with cooling, and THF is distilled off under reduced pressure. The reaction mixture is heated at 70° C. for 30 minutes, and thereto is added KOH with cooling until it saturates. The mixture is extracted with diethyl ether twice, and diamine and water are removed from the residue by azeotropic distillation under reduced pressure. The ether layer and aqueous layer are combined, acidified with 5N aqueous hydrochloric acid solution, and the aqueous layer is distilled off under reduced pressure to give 2-methyl-2-trifluoromethyl-1,3-propanediamine hydrochloride.

reactant | diborane | B#B | B2
reactant | THF | 150 mmol, 1.78 mmol/ml, 56.2 ml | C1CCOC1 | C4H8O
reactant | methyl-trifluoromethylmalonamide | 43.5 mmol, 8.0 g | CC(C(=O)N)(C(=O)N)C(F)(F)F | C5H7F3N2O2
reactant | hydrochloric acid | 1N | Cl | ClH
product | 2-methyl-2-trifluoromethyl-1,3-propanediamine hydrochloride | Cl.CC(CN)(CN)C(F)(F)F | InChI=1S/C5H11F3N2.ClH/c1-4(2-9,3-10)5(6,7)8;/h2-3,9-10H2,1H3;1H
